US07858632B2
To a solution of NaOMe [prepared from sodium ( 0.05 g, 2.17 mmol) in anhydrous methanol (5 ml)], was added guanidine carbonate. After 5 minutes, a solution of 2-(2-isopropyl-4-methoxy-5-methyl-phenoxy)-3-methoxy-acrylic acid ethyl ester (0.22 g, 0.713 mmol) in anhydrous DMSO (10 ml) was added. The mixture was heated at 120° C. for 3 hours and was cooled and partitioned between ethyl acetate and water. The organic phase was washed with brine and dried over anhydrous sodium sulfate. After removal of drying agent, the organic solution was concentrated under reduced pressure. The residue was purified with silica gel chromatography (5% methanol in methylene chloride/0.1% concentrated NH4OH) to yield 2-amino-5-(2-isopropyl-4-methoxy-5-methyl-phenoxy)-3H-pyrimidin-4-one as pale yellow solid (0.045 g, 22%). MS M+H=290.

reactant | NaOMe | 2.17 mmol, 5 ml, 0.05 g | C[O-].[Na+]
reactant | guanidine carbonate | C(O)(O)=O.NC(=N)N
reactant | 2-(2-isopropyl-4-methoxy-5-methyl-phenoxy)-3-methoxy-acrylic acid ethyl ester | 0.713 mmol, 0.22 g | C(C)OC(C(=COC)OC1=C(C=C(C(=C1)C)OC)C(C)C)=O | C17H24O5
solvent | DMSO | 10 ml | CS(=O)C | C2H6OS
product | 2-amino-5-(2-isopropyl-4-methoxy-5-methyl-phenoxy)-3H-pyrimidin-4-one | 0.045 g, 22% | NC1=NC=C(C(N1)=O)OC1=C(C=C(C(=C1)C)OC)C(C)C | C15H19N3O3
